US05986105
C. 1-Amino-4-azatricyclo[5.2.2.02,6 ]undec-8-ene
45 g (0.234 mol) of 1-amino-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione are reduced with 24 g of LiAlH4 in 500 ml of absolute dioxane as under Z 1-B and the mixture is worked up accordingly.

reactant | 1-amino-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione | 0.234 mol, 45 g | NC12C3C(NC(C3C(C=C1)CC2)=O)=O | C10H12N2O2
reactant | LiAlH4 | 24 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 1-Amino-4-azatricyclo[5.2.2.02,6 ]undec-8-ene | NC12C3CNCC3C(C=C1)CC2 | C10H16N2
